US06166049
Preparation 7: (±)-3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy)propanoyl chloride
Oxalyl chloride (92 mg) was added to (±)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy)propanoic acid (100 mg) in dichloromethane (2 mL). The mixture was stirred at room temperature for 16 hours and evaporated to dryness to give the title compound as a gum which was used without further purification.

reactant | Oxalyl chloride | 92 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (±)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy)propanoic acid | 100 mg | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)OCCOC | C22H26N2O6
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (±)-3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy)propanoyl chloride | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)Cl)OCCOC | C22H25ClN2O5
